US07645752B2
Step 5: Preparation of 2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethanol:
To a solution of 3-(phenylsulfonyl)-5-vinyl-1H-indole (1.9 g, 6.7 mmol) in THF (10 mL) at 0° C. was added dropwise BH3-THF (6.7 mL of 1 M THF solution, 6.7 mmol). The solution was stirred for 3 hours at 0° C., and H2O (7 mL) was added slowly. To this mixture was added 10% NaOH (10 mL), 30% H2O2 and the mixture was stirred vigorously at room temperature for 15 hours. The mixture was partitioned between ethyl acetate and H2O, and the aqueous layer was extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated under reduced pressure. Silica gel chromatography (50% ethyl acetate/dichloromethane) gave the title compound as a white solid (1.5 g, 76%). Mp: 55-60° C. MS (ES−): 300 (M−H)

reactant | 3-(phenylsulfonyl)-5-vinyl-1H-indole | 6.7 mmol, 1.9 g | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=C(C=C12)C=C | C16H13NO2S
reactant | BH3-THF | 6.7 mmol, 1 M, 6.7 mL | B.C1CCOC1
reactant | NaOH | 10 mL | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 7 mL | O | H2O
product | 2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethanol | 1.5 g, 76% | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=CC=C(C=C12)CCO | C16H15NO3S
